US07659287B2
Preparation of (S)-N-cyclopropyl-N-(1-cyclopropylpiperidin-4-yl)-4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzamide
A solution of (S)-N-cyclopropyl-N-(piperidin-4-yl)-4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzamide prepared above in step c in Example 1 (120 mg, 0.337 mmol, 1.0 equiv.), (1-ethoxycyclopropoxy)trimethylsilane (404 μL, 2.02 mmol, 6.0 equiv.) and AcOH (193 μL, 3.37 mmol, 10 equiv.) in MeOH (2.0 mL) was treated with NaBH3CN (95 mg, 1.52 mmol, 4.5 equiv.). After being stirred for 48 h at 25° C. and being refluxed for additional 24 h, the reaction was diluted (EtOAc) and washed (1×1 N aqueous NaOH, and 1× brine). The organic layer was dried (Na2SO4) and concentrated under reduced pressure. Purification of the residue by flash chromatography (SiO2, 0-7% MeOH/CH2Cl2, gradient elution) gave the title compound as a pale yellow solid: 1H NMR (CDCl3, 500 MHz) δ 7.55 (d, J=8.2 Hz, 2H), 7.44 (d, J=8.4 Hz, 2H), 4.22-4.13 (m, 1H), 3.12 (d, J=11.5 Hz, 2H), 2.96 (s, br, 1H), 2.54-2.50 (m, 1H), 2.39-2.22 (m, 2H), 2.12-1.99 (m, 2H), 1.88-1.82 (m, 2H), 1.74 (s, 3H), 1.61-1.57 (m, 1H), 0.88-0.85 (m, 2H), 0.55-0.41 (m, 6H); MS(ESI) 398 [M+H]+.

reactant | (S)-N-cyclopropyl-N-(piperidin-4-yl)-4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzamide | C1(CC1)N(C(C1=CC=C(C=C1)[C@](C(F)(F)F)(C)O)=O)C1CCNCC1 | C18H23F3N2O2
reactant | (1-ethoxycyclopropoxy)trimethylsilane | 2.02 mmol, 404 μL, 6.0 equiv. | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | AcOH | 3.37 mmol, 193 μL, 10 equiv. | CC(=O)O | C2H4O2
reactant | NaBH3CN | 1.52 mmol, 95 mg, 4.5 equiv. | [BH3-]C#N.[Na+]
solvent | MeOH | 2.0 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-N-cyclopropyl-N-(1-cyclopropylpiperidin-4-yl)-4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzamide | C1(CC1)N(C(C1=CC=C(C=C1)[C@](C(F)(F)F)(C)O)=O)C1CCN(CC1)C1CC1 | C21H27F3N2O2
